US05856564
In a stream of argon, 60% sodium hydride was dissolved in 10 ml of tetrahydrofuran, and the solution was mixed with 2.0 g of benzyl cyanide, stirred for 1 hour at room temperature, further mixed with 3.69 g of 1,4-dibromobutane and again stirred for 16 hours at room temperature. The reaction mixture was mixed with water and ethyl acetate, and the resulting organic layer was separated, washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. After removing the solvent by distillation under a reduced pressure, the thus obtained residue was subjected to silica gel column chromatography, and the resulting hexane eluate was mixed with 45 ml of sulfuric acid and subjected to 24 hours of heating under reflux. After cooling down to room temperature, the reaction solution was mixed with ice water and ethyl acetate to separate water layer which was subsequently mixed with concentrated hydrochloric acid and ethyl acetate, and the resulting organic layer was separated, washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. By removing the solvent by distillation under a reduced pressure, 978 mg of 2-cyclopentyl-2-phenylacetic acid was obtained.

reactant | benzyl cyanide | 2.0 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | 1,4-dibromobutane | 3.69 g | BrCCCCBr | C4H8Br2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | sodium hydride | [H-].[Na+]
product | 2-cyclopentyl-2-phenylacetic acid | 978 mg | C1(CCCC1)C(C(=O)O)C1=CC=CC=C1 | C13H16O2
